US07183287B2
Preparation of 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[(2R)-2-hydroxypropyl]-4-methylbenzamide
The title compound was prepared by a procedure similar to the one described for 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[(methylamino)carbonyl]methyl}benzamide using (R)-(−)-1-amino-2-propanol (0.16 mL 2.5 mmol) as the amine and without the addition of a second equivalent of N-methylmorpholine. After reverse phase HPLC purification, the organic extracts were concentrated under reduced pressure and dried in vacuo to afford the desired product (377.8 mg, 55%) as beige solid. 1H-NMR (CD3OD, 400 MHz) δ 8.32 (s, 1H), 7.93 (dd, 1H, J=1.6 Hz), 7.77 (d, 1H, J=1.6 Hz), 7.62 (m, 1H), 7.53 (d, 1H, J=8 Hz), 7.01 (m, 2H), 5.60 (q, 2H, J=12.4 Hz), 3.93 (m, 1H), 3.32 (m, 2H), 2.19 (s, 3H), 1.18 (d, 3H, J=6.4 Hz); ES-HRMS m/z 508.0687 (M+H C22H21BrF2N3O4 requires 508.0678).

reactant | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[(methylamino)carbonyl]methyl}benzamide | BrC1=C(N=CN(C1=O)C=1C=C(C(=O)NCC(=O)NC)C=CC1C)OCC1=C(C=C(C=C1)F)F | C22H19BrF2N4O4
reactant | (R)-(−)-1-amino-2-propanol | 2.5 mmol, 0.16 mL | NC[C@@H](C)O | C3H9NO
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
product | 3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-6-oxopyrimidin-1(6H)-yl]-N-[(2R)-2-hydroxypropyl]-4-methylbenzamide | 377.8 mg, 55% | BrC1=C(N=CN(C1=O)C=1C=C(C(=O)NC[C@@H](C)O)C=CC1C)OCC1=C(C=C(C=C1)F)F | C22H20BrF2N3O4
